US07790714B2
(3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (4.2 g) was deprotected following general procedure C. The hydrochloride salt was treated with 10% sodium carbonate and EtOAc. The aqueous layer was washed with EtOAc and the organic layers combined. The organic layers were dried over sodium sulfate and concentrated to provide (3S,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid methyl ester (3.4 g). LC-MS (m/z) 528. NMR (400 MHz, CDCl3): 7.51 (d, 1H), 7.44 (d, 1H), 7.29 (m, 2H), 7.23 (m, 1H), 7.68 (m, 2H), 6.69 (s, 1H), 6.68 (s, 1H), 5.64 (s, 1H), 4.97 (s, 2H), 4.03 (m, 2H), 3.79 (s, 3H), 3.73 (m, 1H), 3.40 (s, 3H), 3.09-2.90 (m, 2H).

reactant | (3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 4.2 g | COC(=O)[C@H]1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C32H32Cl2N2O7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid methyl ester | 3.4 g | COC(=O)[C@H]1NCC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C27H24Cl2N2O5
